US04117003
A 19.4 g amount of p-nitrobenzenesulfonyl chloride is added to 16.5 g of phenol in 80 ml of pyridine. The mixture is heated on a steam bath for one hour then is filtered and cooled to room temperature. The resulting yellow solution is poured into 300 ml of 10% aqueous sodium carbonate solution and stirred vigorously until the product is crystallized out. The solid is filtered, washed with water and dried, then is recrystallized from 300 ml of hot ethanol to give 20.0 g of 4-nitro-benzenesulfonic acid phenyl ester.

reactant | p-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | phenol | 16.5 g | C1(=CC=CC=C1)O | C6H6O
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 4-nitro-benzenesulfonic acid phenyl ester | 20.0 g | C1(=CC=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO5S
